US05731306
Step h: 2-{2-[2-(1,3-Dioxo-1,3,dihydro-isoindol-2-yl)-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester
Dissolve 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-formyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester (250 mg, 0.590 mmol) in methanol (15 mL) and treat with L-leucine tert-butyl ester hydrochloride (0.66 g, 3.0 mmol). Stir at room temperature for 2 hours with 3A molecular sieves, add sodium cyanoborohydride (0.6 mL of a 1.0M solution in tetrahydrofuran, 0.6 mmol), stir for 0.5 hours, add additional sodium cyanoborohydride (0.3 mL) and stir for 5 hours. Filter through filter aid, evaporate the solvent in vacuo and partition the residue between methylene chloride (100 mL) and saturated sodium hydrogen carbonate (40 mL). Dry (Na2SO4), evaporate the solvent in vacuo and purify by silica gel chromatography (5:1 hexane/ethyl acetate followed by 3:1 hexane/ethyl acetate) to give the title compound (221 mg, 63%).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(2-formyl-phenyl)-propionic acid, 2-trimethylsilanyl-ethyl ester | 0.590 mmol, 250 mg | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC[Si](C)(C)C)CC1=C(C=CC=C1)C=O | C23H25NO5Si
reactant | L-leucine tert-butyl ester hydrochloride | 3.0 mmol, 0.66 g | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.3 mL | C(#N)[BH3-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-{2-[2-(1,3-Dioxo-1,3,dihydro-isoindol-2-yl)-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester | 221 mg, 63% | O=C1N(C(C2=CC=CC=C12)=O)C(CC1=C(CNC(C(=O)OC(C)(C)C)CC(C)C)C=CC=C1)C(=O)OCC[Si](C)(C)C | C33H46N2O6Si
